US05489592
3-Fluoro-3-[3-(trifluoromethyl)phenyl]-2-propenoic acid (E+Z)
A mixture of 190 ml of anhydrous THF and 48 ml of anhydrous ether is cooled to -80° C. under a nitrogen atmosphere. Sparging is carried out with 1,1-difluoroethylene until 5.2 g (0.0796 mol) have been absorbed. The mixture is cooled to -115° C. and 54.7 ml (0.0765 mol) of a 1.4M solution of secondary butyllithium in cyclohexane are added dropwise over 15 min. The mixture is allowed to react for 10 min at -100° C. The mixture is cooled to -105° C., sparging is carried out with carbon dioxide gas for 20 minutes at -105° C. and the mixture is then allowed to react for 15 min at -110° C. Sparging is then carried out with a nitrogen stream, while allowing to return to room temperature, and the mixture is left for 1 h at 10° C. with nitrogen sparging. The mixture is again cooled to -75° C. and a 3-(trifluoromethyl) phenylmagnesium bromide solution (prepared from 39.4 g (0.175 mol) of 3-bromo-1-(trifluoromethyl)benzene, 3.9 g (0.160 mol) of magnesium, 120 ml of anhydrous ether and an iodine crystal) is added dropwise and the mixture is then allowed to react for 1 hour at -40° C. Hydrolysis is carried out by slow addition of 6N sulphuric acid and extraction with ether, washing with water, drying over Na2SO4, filtration and evaporation under vacuum are carried out. The residue is taken up in ether and extracted with an aqueous NaHCO3 solution. The aqueous phase is acidified with 6N HCl and extracted with CH2Cl2 ; drying over Na2SO4, filtration and evaporation under vacuum are carried out. The mixture of E+Z isomers obtained is used without other purification in the following stage (F10). Weight obtained: 2.5 g (Yd.: 13%)

reactant | 3-(trifluoromethyl) phenylmagnesium bromide | FC(C=1C=C(C=CC1)[Mg]Br)(F)F
reactant | 3-bromo-1-(trifluoromethyl)benzene | 0.175 mol, 39.4 g | BrC=1C=C(C=CC1)C(F)(F)F | C7H4BrF3
reactant | magnesium | 0.160 mol, 3.9 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | sulphuric acid | 6N | S(O)(O)(=O)=O | H2O4S
reactant | ether | CCOCC | C4H10O
reactant | ether | 120 ml | CCOCC | C4H10O
reactant | ether | 48 ml | CCOCC | C4H10O
solvent | THF | 190 ml | C1CCOC1 | C4H8O
product | 3-Fluoro-3-[3-(trifluoromethyl)phenyl]-2-propenoic acid | FC(=CC(=O)O)C1=CC(=CC=C1)C(F)(F)F | C10H6F4O2
